US06573273B1
Using the general method of Example 150 except that the reaction was run at 0° C., 1-(3-aminopropyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (2.0 g, 7.8 mmol) was reacted with 4-morpholinecarbonyl chloride (1.17 g, 7.8 mmol) to provide 1.35 g of N-[3-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]morpholine-4-carboxamide as a white solid, m.p. 226.0-228.0° C. Analysis: Calculated for C19H24N6O2: %C, 61.94; %H, 6.57; %N, 22.81; Found: %C, 61.67; %H, 6.46; %N, 22.74.

reactant | 1-(3-aminopropyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 7.8 mmol, 2.0 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C14H17N5
reactant | 4-morpholinecarbonyl chloride | 7.8 mmol, 1.17 g | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | N-[3-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]morpholine-4-carboxamide | 1.35 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNC(=O)N2CCOCC2)C | C19H24N6O2
